US09422279B2
Into a 50-mL round-bottom flask, was placed a solution of (2-chlorophenyl)boronic acid (1.6 g, 10.23 mmol, 1.20 equiv), (2-chloropyridin-3-yl)methanol (1 g, 6.97 mmol, 1.00 equiv), Pd(dppf)Cl2 (570 mg, 0.78 mmol, 0.10 equiv), and sodium bicarbonate (1.7 g, 20.24 mmol, 3.00 equiv) in a solvent mixture of dioxane (10 mL) and water (10 mL). The resulting solution was stirred for 3 h at 70° C., and then it was diluted with 20 mL of H2O. The resulting solution was extracted with 2×20 mL of dichloromethane, and the combined organic layers were concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:100-1:5) as eluent to furnish 1 g (65%) of [2-(2-chlorophenyl)pyridin-3-yl]methanol as a white solid.

reactant | (2-chlorophenyl)boronic acid | 10.23 mmol, 1.6 g, 1.20 equiv | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | (2-chloropyridin-3-yl)methanol | 6.97 mmol, 1 g, 1.00 equiv | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | sodium bicarbonate | 20.24 mmol, 1.7 g, 3.00 equiv | C([O-])(O)=O.[Na+]
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.78 mmol, 570 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 10 mL | O | H2O
product | [2-(2-chlorophenyl)pyridin-3-yl]methanol | 1 g, 65% | ClC1=C(C=CC=C1)C1=NC=CC=C1CO | C12H10ClNO
